US07396844B1
Synthesis of (E)-3-(4-cyanophenyl)acrylic acid
3.64 g (20 mmol) of 4-bromobenzonitrile and 2.88 g (40 mmol) of acrylic acid were dissolved in 40 ml of acetonitrile. 49 mg (0.2 mmol) of palladium (II) acetate, 365 mg (1.2 mmol) of tri-o-tolylphosphine and 7.41 g (40 mmol) of tributylamine were added to the solution, and they were heated under reflux overnight. The reaction liquid was poured into 4 N aqueous hydrogen chloride solution. The precipitates thus formed were taken by the filtration, washed with 4 N aqueous hydrogen chloride solution, water and ethyl acetate, and then dried in vacuo to obtain the title compound.

reactant | 4-bromobenzonitrile | 20 mmol, 3.64 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | acrylic acid | 40 mmol, 2.88 g | C(C=C)(=O)O | C3H4O2
reactant | tri-o-tolylphosphine | 1.2 mmol, 365 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | tributylamine | 40 mmol, 7.41 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
catalyst | palladium (II) acetate | 0.2 mmol, 49 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-3-(4-cyanophenyl)acrylic acid | C(#N)C1=CC=C(C=C1)/C=C/C(=O)O | C10H7NO2
